US08034812B2
Production of N-[4-chloro-3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
Using N-[6-(5-amino-2-chlorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (131 mg, 0.382 mmol), 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (91 mg, 0.573 mmol), triethylamine (116 mg, 1.15 mmol) and tetrahydrofuran (5.0 mL) as starting materials and in the same manner as in Example 96, the title compound (163 mg, 92%) was obtained as a white powder.

reactant | N-[6-(5-amino-2-chlorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.382 mmol, 131 mg | NC=1C=CC(=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C1)Cl | C16H14ClN5O2
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 0.573 mmol, 91 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
reactant | triethylamine | 1.15 mmol, 116 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | N-[4-chloro-3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 163 mg, 92% | ClC1=C(C=C(C=C1)NC(=O)C1=CC(=NN1C)C)OC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C22H20ClN7O3
